US08791107B2
5-((5)-1-phenylethyl)-2-(1H-pyrazol-3-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
To a 2 mL microwave vial were added (S)-2-chloro-5-(1-phenylethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x47, 36 mg, 0.104 mmol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxabolone)-pyrrazole (40.5 mg, 0.209 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (4.29 mg, 5.22 μmol). After the vial was sealed, dioxane (0.6 mL) and aqueous saturated NaHCO3 (0.15 mL) were added, and the mixture was degassed by bubbling nitrogen through a syringe needle for 10 minutes. The mixture was then heated in a microwave to 120° C. for 60 minutes. Another 2 equivalents of boronic ester and 0.05 equivalents of palladium catalyst were added, and the mixture was heated in the microwave for another 60 minutes. DMF (1 mL) was added and the mixture was filtered by syringe filter. The crude product was purified by preparatory HPLC, eluting with a gradient of 25-30% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). Lyophilization of the collected fractions gave a diastereomeric mixture of the title compound (TFA salt) as a white solid (7 mg, 14%). 1H NMR (400 MHz, DMSO-d6) δ 1.68 (d, J=7.1 Hz, 3H), 1.75 (d, J=7.3 Hz, 4H), 2.26 (t, J=1.8 Hz, 1H), 2.60, (t, J=1.8 Hz, 1H), 2.94 (br s, 3H), 3.46-3.73 (m, 11H), 3.90-3.99 (m, 4H), 4.18 (dt, J=11.4, 3.6 Hz, 4H), 4.40-4.66 (m, 7H), 6.13 (d, J=6.8 Hz, 1H), 6.24 (d, J=7.1 Hz, 1H), 6.72 (br s, 3H), 7.17-7.38 (m, 14H), 7.40 (br s, 1H), 7.55 (d, J=18.4 Hz, 4H). ESI-MS m/z [M+H]+ calc'd for C20H20N6O2, 377.16. found 377.4.

reactant | (S)-2-chloro-5-(1-phenylethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.104 mmol, 36 mg | ClC1=NC=2N3[C@H](C(N(C2C=N1)C(C)C1=CC=CC=C1)=O)COCC3 | C17H17ClN4O2
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxabolone)-pyrrazole | 0.209 mmol, 40.5 mg | B1(OC(C(O1)(C)C)(C)C)C2=CC=NN2 | C9H15BN2O2
reactant | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | 0.15 mL | C(=O)(O)[O-].[Na+]
catalyst | palladium | 0.05 equivalents | [Pd] | Pd
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 5.22 μmol, 4.29 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-((5)-1-phenylethyl)-2-(1H-pyrazol-3-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 7 mg, 14% | C1(=CC=CC=C1)[C@H](C)N1C=2C=NC(=NC2N2C(C1=O)COCC2)C2=NNC=C2 | C20H20N6O2
